US06153611
1-[4-(1,3-Benzodioxol-5-yl)-3-cyclohexen-1-yl]-4-[(3-methoxyphenyl)methyl]piperazine
The title compound was prepared from 3-methoxybenzyl chloride (0.13 g, 0.8 mmole), 1-[4-(1,3-benzodioxol-5-yl)-3-cyclohexen-1-yl]piperazine (0.23 g, 0.8 mmole), and excess powdered K2CO3 as described in example 45 to give the product (45%, mp: 124-124.5° C.). Calc'd for C25H30N2O3 : C, 73.86%; H, 7.44%; N, 6.89%. Found: C, 73.88; H, 7.43%; N, 6.91%.

reactant | 3-methoxybenzyl chloride | 0.8 mmole, 0.13 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | 1-[4-(1,3-benzodioxol-5-yl)-3-cyclohexen-1-yl]piperazine | 0.8 mmole, 0.23 g | O1COC2=C1C=CC(=C2)C2=CCC(CC2)N2CCNCC2 | C17H22N2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 1-[4-(1,3-Benzodioxol-5-yl)-3-cyclohexen-1-yl]-4-[(3-methoxyphenyl)methyl]piperazine | O1COC2=C1C=CC(=C2)C2=CCC(CC2)N2CCN(CC2)CC2=CC(=CC=C2)OC | C25H30N2O3
